US05559161
N,N,N",N"-Tetramethyl-N'-2-hydroxypropyldiethylenetriamine (TMHPDETA)
N,N,N",N"-Tetramethyldiethylenetriamine (TMDETA, 24.96 g, 157.2 mmole) and propylene oxide (PO, 9.1 g, 157.0 mmole) were charged to a 50 mL autoclave. The reactor was sealed, the contained air was replaced with nitrogen, the reactor was pressured to 100 psi (689 kPa) with nitrogen, and the contents were heated to 120° C. Analysis of samples withdrawn after 6 and 22 hours showed that little change in composition had occurred after the first 6 hours. After 22 hours, the reaction mixture was cooled to ambient temperature and the product was removed. GC analysis of the crude product showed that it contained 4.8% unreacted TMDETA and 82.3% TMHPDETA.

reactant | N,N,N",N"-Tetramethyldiethylenetriamine | 157.2 mmole, 24.96 g | CN(CCNCCN(C)C)C | C8H21N3
reactant | propylene oxide | 157.0 mmole, 9.1 g | C1C(C)O1 | C3H6O
product | N,N,N",N"-Tetramethyl-N'-2-hydroxypropyldiethylenetriamine | CN(CCN(CCN(C)C)CC(C)O)C | C11H27N3O
